US09388180B2
6.2 5,6-dimethyl-3-thia-1,4,7,8a-tetraaza-as-indacene
N-(4-(4-methyl-1H-imidazol-1-yl)thiazol-5-yl)acetamide (50 mg, 0.23 mmol) was suspended in phosphorus oxychloride (5 mL) and P2O5 (326 mg, 2.3 mmol) was added quickly. The resulting mixture was heated at 160° C. in a sealed tube for 24 hr. After POCl3 was evaporated, the residue was quenched with ice water very carefully. The mixture was neutralized with saturated Na2CO3 solution and extracted with ethyl acetate. The organic layer was dried over Na2SO4, concentrated (the crude product can also be directly used for next step), purified by prep-HPLC to give 15 mg of the title compound (yield: 33%).

reactant | N-(4-(4-methyl-1H-imidazol-1-yl)thiazol-5-yl)acetamide | 0.23 mmol, 50 mg | CC=1N=CN(C1)C=1N=CSC1NC(C)=O | C9H10N4OS
reactant | P2O5 | 2.3 mmol, 326 mg | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | phosphorus oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5,6-dimethyl-3-thia-1,4,7,8a-tetraaza-as-indacene | 15 mg, yield: 33% | CC1=NC=2SC=NC2N2C=NC(=C12)C | C9H8N4S
